US09086624B2
In 630 g of methanol was dissolved 203 g of 4-tert-butylcyclohexanecarboxylic acid. The solution was combined with 0.54 g of conc. sulfuric acid and heated under reflux for 72 hours. The reaction solution was allowed to cool to room temperature, 18 g of 2.5 wt % sodium hydroxide/methanol mixture was added, and the solvent was distilled off in vacuum from the reaction solution. The crude oil was purified by vacuum distillation, obtaining 207 g of methyl 4-tert-butylcyclohexanecarboxylate as colorless liquid (yield 95%, isomer ratio 76:24).

reactant | 4-tert-butylcyclohexanecarboxylic acid | 203 g | C(C)(C)(C)C1CCC(CC1)C(=O)O | C11H20O2
reactant | sulfuric acid | 0.54 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide methanol | [OH-].[Na+].CO
solvent | methanol | 630 g | CO | CH4O
product | methyl 4-tert-butylcyclohexanecarboxylate | 207 g, yield 95% | C(C)(C)(C)C1CCC(CC1)C(=O)OC | C12H22O2
